US07053060B2
To a solution of 3-benzyloxy-4-(4-ethylbenzyl)benzoic acid (1.4 g) and triethylamine (1.3 mL) in 1,4-dioxane (10 mL) was added a solution of diphenylphosphoryl azide (1.3 g) in 1,4-dioxane (10 mL), and the mixture was stirred at 100° C. for 1 hour. Benzyl alcohol (1.6 mL) was added to the reaction mixture, and the mixture was stirred at the same temperature for 7 hours. The solvent of the reaction mixture was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give benzyl N-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]carbamate (1.4 g). To a solution of obtained benzyl N-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]carbamate (1.4 g) in methanol (15 mL) was added 10% palladium-carbon powder (0.28 g), and the mixture was stirred under a hydrogen atmosphere for 11 hours. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1) to give 5-amino-2-(4-ethylbenzyl)phenol (0.54 g).

reactant | benzyl N-[3-benzyloxy-4-(4-ethylbenzyl)phenyl]carbamate | 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1CC1=CC=C(C=C1)CC)NC(OCC1=CC=CC=C1)=O | C30H29NO3
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 0.28 g | [C].[Pd]
product | 5-amino-2-(4-ethylbenzyl)phenol | 0.54 g | NC=1C=CC(=C(C1)O)CC1=CC=C(C=C1)CC | C15H17NO
